US08440651B2
(2-chloro-4-morpholinopyrido[3,2-d]pyrimidin-6-yl)methanamine (0.1 g) was added to a pre-stirred (15 minutes) solution of trimethylacetic acid (1.2 eq), 1-hydroxybenzotriazole (1.1 eq.), N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (1.1 eq.), triethylamine (2 eq.) in N,N-dimethylformamide (2.77 mL). The reaction was stirred overnight then extracted with ethyl acetate and brine. The organic layer was dried (Mg2SO4), filtered and concentrated to give quantitative yield of N-((2-chloro-4-morpholinopyrido[3,2-d]pyrimidin-6-yl)methyl)pivalamide.

reactant | (2-chloro-4-morpholinopyrido[3,2-d]pyrimidin-6-yl)methanamine | 0.1 g | ClC=1N=C(C2=C(N1)C=CC(=N2)CN)N2CCOCC2 | C12H14ClN5O
reactant | trimethylacetic acid | 1.2 eq | CC(C(=O)O)(C)C | C5H10O2
reactant | 1-hydroxybenzotriazole | 1.1 eq. | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 1.1 eq. | Cl.CN(CCCN=C=NCC)C
reactant | triethylamine | 2 eq. | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 2.77 mL | CN(C=O)C | C3H7NO
product | N-((2-chloro-4-morpholinopyrido[3,2-d]pyrimidin-6-yl)methyl)pivalamide | quantitative yield | ClC=1N=C(C2=C(N1)C=CC(=N2)CNC(C(C)(C)C)=O)N2CCOCC2 | C17H22ClN5O2
